US04588732
5-[p-(hydroxymethyl)phenethyl]imidazo[1,5-a]pyridine (2.52 g) is refluxed in 20 ml of thionyl chloride for 2 hours. Excess thionyl chloride is evaporated and the residue is partitioned between ethyl acetate and dilute sodium bicarbonate solution. The organic phase is dried over sodium sulfate and evaporated to yield 5-[p-(chloromethyl)-phenethyl]imidazo[1,5-a]pyridine.

reactant | 5-[p-(hydroxymethyl)phenethyl]imidazo[1,5-a]pyridine | 2.52 g | OCC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C16H16N2O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-[p-(chloromethyl)-phenethyl]imidazo[1,5-a]pyridine | ClCC1=CC=C(CCC2=CC=CC=3N2C=NC3)C=C1 | C16H15ClN2
